### PR TITLE
chore: adaptations for nightly-2025-05-20

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Batteries/Data/Fin/Fold.lean [hunk 1]
```diff
@@ -133,21 +133,14 @@ theorem dfoldl_eq_foldl (f : Fin n → α → α) (x : α) :
 
 theorem foldlM_eq_foldlM_finRange [Monad m] (f : α → Fin n → m α) (x) :
     foldlM n f x = (List.finRange n).foldlM f x := by
-  induction n generalizing x with
-  | zero => simp
-  | succ n ih =>
-    rw [foldlM_succ, List.finRange_succ, List.foldlM_cons]
-    congr; funext
-    rw [List.foldlM_map, ih]
+  exact foldlM_eq_finRange_foldlM f x
```
Comment (kim-em) [inline Batteries/Data/Fin/Fold.lean:136]: The upstream lemma will be renamed tomorrow, and we can then simply delete.
